US09029388B2
C) 2-[4-(5,6,7,8-Tetrahydroimidazo[1,2-a]pyridin-8-yl)phenoxy]-1H-benzimidazole
2-[4-(5,6,7,8-Tetrahydroimidazo[1,2-a]pyridin-8-yl)phenoxy]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole (0.19 g), 1.0 M tetrabutylammonium fluoride-THF solution (1.7 ml) and THF (3 ml) were stirred under microwave irradiation at 100° C. for 3 hr. The reaction mixture was stirred at 80° C. overnight, poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate) and recrystallized from methanol/ethyl acetate to give the title compound (0.071 g).

reactant | 2-[4-(5,6,7,8-Tetrahydroimidazo[1,2-a]pyridin-8-yl)phenoxy]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole | 0.19 g | N=1C=CN2C1C(CCC2)C2=CC=C(OC1=NC3=C(N1COCC[Si](C)(C)C)C=CC=C3)C=C2 | C26H32N4O2Si
reactant | tetrabutylammonium fluoride THF | 1.0 M, 1.7 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-[4-(5,6,7,8-Tetrahydroimidazo[1,2-a]pyridin-8-yl)phenoxy]-1H-benzimidazole | 0.071 g | N=1C=CN2C1C(CCC2)C2=CC=C(OC1=NC3=C(N1)C=CC=C3)C=C2 | C20H18N4O
